US08957062B2
Step G: 5-[2-(3-fluoroazetidin-1-yl)-2-oxoethyl]-2-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)-3-methylpyridine
The mixture of [6-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)-5-methylpyridin-3-yl]acetic acid (25 mg, 0.058 mM), 3-floroazetidine (8.7 mg, 0.116 mmol), EDC (17 mg, 0.087 mmol), HOBt (13 mg. 0.087 mmol) and triethyl amine (33 μL, 0.232 mmol) in 2 mL of DCM was stirred for 16 hrs at room temperature. The volatiles were then removed in vacuo and the residue was dissolved in CH3CN and water (1/1, 1.5 ml) and submitted to the Rahway High Throughput Purification Group to be purified. The HTP group used an HP mass-directed LC eluting with a gradient of 20-80% acetonitrile in water with 0.05% formic acid buffer to purify the compound. The desired product was obtained with 97.5% purity measured via Gilson HPLC analytical analysis. LCMS (ESI) m/z 486 [M+H]+. GPR119 Human EC50: 8 nM

reactant | [6-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)-5-methylpyridin-3-yl]acetic acid | 0.058 mM, 25 mg | C(C)(C)C1=NOC(=N1)N1CCC(CC1)[C@@H]1[C@@H](C1)CCOC1=C(C=C(C=N1)CC(=O)O)C | C23H32N4O4
reactant | 3-floroazetidine | 0.116 mmol, 8.7 mg | FC1CNC1 | C3H6FN
reactant | EDC | 0.087 mmol, 17 mg
reactant | HOBt | 0.087 mmol, 13 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethyl amine | 0.232 mmol, 33 μL | C(C)N(CC)CC | C6H15N
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 5-[2-(3-fluoroazetidin-1-yl)-2-oxoethyl]-2-(2-{(1S,2R)-2-[1-(3-isopropyl-1,2,4-oxadiazol-5-yl)piperidin-4-yl]cyclopropyl}ethoxy)-3-methylpyridine | FC1CN(C1)C(CC=1C=C(C(=NC1)OCC[C@H]1[C@H](C1)C1CCN(CC1)C1=NC(=NO1)C(C)C)C)=O | C26H36FN5O3
